Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
erythromycin base / trazodone / Zocor / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
visual changes, sensory changes
 
Major Surgical or Invasive Procedure:
PICC line placed ___ by Venous Access team 

 
History of Present Illness:
Ms. ___ is a ___ RH F w PMHx of ___ 
disease
and depression who presents to ___ ED on the recommendation of
her outside neurologist for evaluation of possible CNS Lyme.

Ms. ___ reports that her symptoms began 2 weeks ago when
she came down with chills and body aches.  She felt a swollen
lymph node near the left angle of the jaw and noted a "bug bite"
behind her left ear.  She was seen by her PCP, and testing
returned positive for acute Lyme infection.  She was started on 
a
3 week course of oral doxycycline (now starting her third week). 

She states that after initially starting the medication she 
began
to feel a bit better.

Unfortunately this last ___ upon awakening Ms. ___
noted numbness in the very tip of her left thumb as well as the
feeling of a sock in her right shoe.  The symptoms persisted, 
and
on ___ she reported extension of the numbness in the left
thumb down to the knuckle with new numbness in the right hand
only when she pinches her first and second digit together.  She
also began to feel pricking sensation in her left foot.

On ___, Ms. ___ reports that she had several seconds of
left eye twitching that was intermittent throughout the day.  At
one point the left eye was twitching so much that her main shot
for several seconds.  In addition to that she reports that she
began seeing a "cloud in the top middle" of her left eye.  She
confirms that if she closes the left eye the visual complaints
disappear.  She states that that is persistent and it now looks
as though there is "spider webbing" when looking out of the left
eye.

On ___, Ms. ___ reports seeing rainbow colored 
pinwheels
out of her left eye.  She states that the pinwheels appear to
form a circle around her vision on the left.  These will occur
___ times per day and last around 10 seconds at a time.  She is
not close her left eye during these episodes to determine if 
they
are monocular or not.  She denies any associated headache.  She
also began to feel as if her lower lip was "a little thick".

On the morning of presentation, Ms. ___ states she awoke
and "my memory was shattered".  She states that she asked her
daughter where her husband was, forgetting that he was in ___ on 
a
trip.  She also forgot that her daughter was due to go to ___. 
She asked her daughter several times with the date was.  Given
that this is very unlike her, she made an appointment to be seen
by ___ neurology.  She was able to drive herself to that
appointment but states that she had to be "very cautious" and
relied heavily on GPS.

At that visit, her neurologist documented MOCA score of 25.  Ms.
___ lost points on delayed recall and orientation (she
could not recall the date).  Due to concern for encephalopathy
secondary to CNS Lyme, Ms. ___ was instructed to come to
the ___ ED for further evaluation.

Currently she states that all of the above complaints are
persistent and stable.  She adds that she is also very emotional
and "teary" which is unusual for her.  She denies any recent
fevers, chest pain, abdominal pain.  She denies any headache
though states that the onset of her symptoms she did have some
"achy eyes".  She denies any neck pain or neck stiffness.  She
denies any focal weakness.  She denies any specific language
complaints including word finding difficulty or comprehension 
("I
have an answer finding problem").

 
Past Medical History:
- HLD
- ___ disease
- lumbar disc disease
- carpal tunnel syndrome s/p surgery (bilateral)
- depression
- tobacco abuse
- DJD

 
Social History:
___
Family History:
Father - deceased, suicide at age ___, DM
Mother - living, pericarditis, ___
Son - living
Daughter - living

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION 
GEN - well appearing, well developed
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x 3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent history, though uses notes
to do so, and does forget to mention a few points that I have to
go back and prompt her for. Structure of speech demonstrates
fluency with full sentences, and normal prosody. No paraphasic
errors. Intact repetition, naming, reading, and comprehension.
Verbal registration ___, recalls ___ spontaneously, and ___ with
MC. No evidence of apraxia or neglect.

CN - [II] PERRL 3->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. [V] V1-V3 without deficits to light 
touch
bilaterally. [VII] No facial movement asymmetry with forced
eyelid closure or volitional smile. [VIII] Hearing intact to
finger rub bilaterally. [IX, X] Palate elevation symmetric. No
dysarthria. [XI] SCM/Trapezius strength ___ bilaterally. [XII]
Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1] 
L  5      5     5     5     5    5    5      5     5    5  
R  5      5     5     5     5    5    5      5     5    5 

SENSORY - Reports area of decreased sensation in the distal L
thumb. Denies sensory loss in the R hand ("it's only when I put
my thumb and pointer finger together"). Reports "pins and
needles" parasthesia in bilateral feet; but sensation intact to
LT, PP, and proprioception.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        2
R 2      2      2      2        2
Plantar response flexor bilaterally.

COORD - No dysmetria with finger to nose testing. Good speed and
intact cadence with rapid alternating movements. Negative
Romberg.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway.

_
_
_
_
_
_
_
________________________________________________________________

PHYSICAL EXAMINATION AT DISCHARGE:
GEN - well appearing
NECK - full ROM, no meningismus
CV - RRR, s1/s2
RESP - normal WOB
SKIN - no target lesion or rash 

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x 3. Attentive. Able to name ___
backwards. Fluent speech and normal prosody. No paraphasic
errors. Intact repetition, naming, reading, and comprehension. 
No
evidence of apraxia or neglect. 

CN - [II] Left 4mm Right 3mm with left RAPD. +ve reported Red
desaturation especially in left eye. VF full to number counting.
[III, IV,VI] EOMI, no nystagmus. [V] V1-V3 without deficits to
light touch bilaterally. [VII] No facial movement asymmetry with
forced eyelid closure or volitional smile. [VIII] Hearing intact
to finger rub bilaterally. [IX, X] Palate elevation symmetric. 
No
dysarthria. [XI] SCM/Trapezius strength ___ bilaterally. [XII]
Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1] 
L  5      5     5     5     5    5    5      5     5    5  
R  5      5     5     5     5    5    5      5     5    5 

SENSORY - Reports area of decreased sensation in the distal L
thumb. Denies sensory loss in the R hand ("it's only when I put
my thumb and pointer finger together"). Reports "pins and
needles" parasthesia in bilateral feet; but sensation intact to
LT, PP, and proprioception.

REFLEXES - Brisk 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      3      3        2
R 2      2      3      3        2
Plantar response extensor bilaterally.

COORD - No dysmetria with finger to nose testing. Good speed and
intact cadence with rapid alternating movements. Negative
Romberg.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway.

 
Pertinent Results:
Atrius Labs - ___
Lyme IgM (Western Blot) - positive
Lyme IgG (Western Blot) - negative
Negative Babesia and Ehrlichia

SERUM LYME DONE AT ___ --- negative 

CSF wbc 13 normal protein and normal glucose 

CBC/CHEM/LFT wnl 

EKG wnl 

MRI brain w/ orbits: . No evidence of infarction, hemorrhage, or 
edema. Nonspecific white matter signal abnormality, which may be 
a sequela of chronic small vessel ischemic disease in a patient 
of this age group. However, alternative differential 
considerations provided the clinical history include infectious 
process such as Lyme disease with other differentials including 
inflammatory condition, migraines, demyelinating process, or 
sequel of prior trauma. Recommend correlation with history. 
Moderate motion degradation of the MRI orbits. Within the 
confines of the study, no evidence of optic nerve edema or 
abnormal enhancement. 

MRI C spine: Multilevel cervical spondylosis with mild spinal 
canal stenosis causing remodeling of the ventral spinal cord at 
C5-C6 and C7-T1 without evidence of cord edema. Multilevel 
neural foraminal narrowing, as above. No evidence of abnormal 
enhancement. 

 
Brief Hospital Course:
Ms. ___ is a ___ RH F w PMHx of ___ 
disease and depression who presented with complaints of left eye 
vision changes, sensory changes, memory impairment and mood 
changes in setting of possible lyme infection (Atrius lab 
positive for IgM lyme). MRI brain w/ orbits unremarkable with 
nonspecific white matter signal abnormality, MRI c spine with 
signs of spondylosis. CSF revealed wbc 13 and patient was 
started on IV ceftriaxone for CNS lyme. Although repeat serum 
lyme testing (after 3wks of Doxycycline was negative). ID 
consulted and recommended further testing for syphilis and 
arbovirus. Not entirely clear that this is neuroborrielosis, but 
reasonable to treat empirically given previous positive IgM lyme 
result. At this point treating for early disseminated lyme with 
14days of IV Ceftriaxone however further duration of treatment 
to be determined by ID as outpatient following review of pending 
results. 

Hospital course by system: 
 
Neuro:
- continue 2g qd IV ceftriaxone x14days (started ___
- f/u csf lyme, vdrl, cultures 
- f/u serum babesiosis, anaplas, rpr, arbovirus  
- f/u ID, Neuroptho and Neurology as outpatient  
Psych:
- continue home Bupropion and Fluoxetine 
- Ativan prn anxiety 

Transition of care:
- Patient has a PICC line (placed ___ to receive IV 
Ceftriaxone as outpatient 
- Patient to follow up with ID, Neuropthalmology and Neurology 
as outpatient 
- Pending results: csf lyme/vdrl/cultures, serum 
babesiosis/anaplas/rpr/arbovirus/bcx
- Consider repeat MRI brain in ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxycycline Hyclate 100 mg PO Q12H 
2. FLUoxetine 20 mg PO DAILY 
3. BuPROPion (Sustained Release) 300 mg PO QAM 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV DAILY cns lyme Duration: 14 Days 
Please touch base with ID regarding duration of treatment 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV daily 
Disp #*14 Intravenous Bag Refills:*0 
2.  BuPROPion (Sustained Release) 300 mg PO QAM  
3.  FLUoxetine 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Neurobarreliosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___ were admitted to ___ hospital for 
management of your sensory and visual changes thought to be for 
CNS Lyme (Neuroborreliosis). 

You were switched from taking Doxycycline to IV Ceftriaxone. No 
changes were made to your other home medications. 

Please follow up with Infectious Disease, Neuropthalmolody and 
Neurology as outpatient.
 
Followup Instructions:
___